US07238716B2
A mixture of 4-chloromethyl-5-methyl-2-phenylthiazole (5.40 g), 4-hydroxybenzaldehyde (2.91 g), anhydrous potassium carbonate (4.95 g) and N,N-dimethylformamide (50 mL) was stirred at 80° C. for 3 hrs. The reaction mixture was poured into water, and the precipitated solid was collected by filtration, and dried with air to give crystals (6.85 g, 93%) of 4-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]benzaldehyde. Recrystallization from ethyl aceetate-hexane gave colorless prism crystals. melting point: 18-119° C.

reactant | 4-chloromethyl-5-methyl-2-phenylthiazole | 5.40 g | ClCC=1N=C(SC1C)C1=CC=CC=C1 | C11H10ClNS
reactant | 4-hydroxybenzaldehyde | 2.91 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 4.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]benzaldehyde | 6.85 g, 93% | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=CC=C(C=O)C=C1 | C18H15NO2S
